US08648068B2
4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methoxy-amide
4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (100 mg) was dissolved in DMF (3 ml) and triethylamine (79 μl) was added. To this mixture TBTU (90 mg) was added and the reaction was stirred for 10 mins. After this time methylhydroxylamine hydrochloride (27 mg) was added and the reaction was stirred at 40° C. overnight. The mixture was purified by RP-chromatography (method A).

reactant | 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 100 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2COCC2 | C18H16FN3O4S
reactant | triethylamine | 79 μl | C(C)N(CC)CC | C6H15N
reactant | TBTU | 90 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | methylhydroxylamine hydrochloride | 27 mg | Cl.CNO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methoxy-amide | CONC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@H]2COCC2)S1)C | C19H19FN4O4S
